US07622583B2
To a solution of N-(2-bromo-5-methyl-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (158 mg, 0.33 mmol) in THF (3 mL) under nitrogen atmosphere at −30° C. was added isopropylmagnesium chloride (2 M solution in THF, 0.4 mL, 0.8 mmol) via dropwise addition. The mixture was then stirred for 30 min at 0° C. followed by the addition of a solution of 2-fluoro-6-methoxy-benzaldehyde (96.6 mg, 0.63 mmol) at −30° C. The mixture was stirred at room temperature for 3 h, quenched with saturated aqueous NH4Cl solution (5 mL), and extracted with EtOAc (2×25 mL). The combined organic extracts were washed with saturated aqueous NH4Cl solution (25 mL) and brine (25 mL), dried (Na2SO4), and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (30% EtOAc-hexanes) to obtain 4-chloro-N-{2-[(2-fluoro-6-methoxyphenyl)-hydroxy-methyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (110 mg) as yellow syrup in 60% yield. ESMS m/z: 549 (M+H).

reactant | N-(2-bromo-5-methyl-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.33 mmol, 158 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)C | C15H13BrClF3N2O3S
reactant | isopropylmagnesium chloride | 0.8 mmol, 2 M, 0.4 mL | C(C)(C)[Mg]Cl
reactant | 2-fluoro-6-methoxy-benzaldehyde | 0.63 mmol, 96.6 mg | FC1=C(C=O)C(=CC=C1)OC | C8H7FO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{2-[(2-fluoro-6-methoxyphenyl)-hydroxy-methyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 110 mg, 60% yield | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(O)C1=C(C=CC=C1OC)F)C(F)(F)F | C23H21ClF4N2O5S
